US04652566
[Preparation of 2-acetyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran by the process 2]
There was dissolved 1.3 g (0.005 mole) of 2-acetyl-7-(3-chloro-2-hydroxypropoxy)benzofuran and 1.1 g (0.0055 mole) of 1-(2-methoxyphenyl)piperazine in 10 ml of dioxane, and then the mixture was refluxed with heating for 6 hours. After completion of the reaction, 2N-NaOH solution was added to give the free base, which was extracted from chloroform. The extract was dried with magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resultant residue was crystallized from ethyl acetate.

reactant | 2-acetyl-7-(3-chloro-2-hydroxypropoxy)benzofuran | 0.005 mole, 1.3 g | C(C)(=O)C=1OC2=C(C1)C=CC=C2OCC(CCl)O | C13H13ClO4
reactant | 1-(2-methoxyphenyl)piperazine | 0.0055 mole, 1.1 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | NaOH | [OH-].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-acetyl-7-{2-hydroxy-3-[4-(2-methoxyphenyl)piperazinyl]propoxy}benzofuran | C(C)(=O)C=1OC2=C(C1)C=CC=C2OCC(CN2CCN(CC2)C2=C(C=CC=C2)OC)O | C24H28N2O5
